US09403798B2
tert-Butyl 4-[5-(4-chlorobenzyl)-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl]piperazine-1-carboxylate
To an N,N-dimethylformamide solution (200 mL) of the crude product of tert-butyl 4-(4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate synthesized in Reference Synthesis Example 7 and potassium carbonate (7.46 g, 54.0 mmol), 4-chlorobenzyl bromide (10.2 g, 49.5 mmol) was added at room temperature and the resultant reaction solution was stirred at room temperature for 1 day. After completion of the reaction, water was added to the reaction solution and a deposited solid was collected by filtration. The filtered residue was suspended in ethyl acetate and the suspended solid was collected by filtration and dried under reduced pressure to obtain the title compound (12.4 g, two step yield 68%).

reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | tert-butyl 4-(4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | O=C1N=C(N=CN1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H19N5O3
reactant | potassium carbonate | 54.0 mmol, 7.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzyl bromide | 49.5 mmol, 10.2 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | water | O | H2O
product | tert-Butyl 4-[5-(4-chlorobenzyl)-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl]piperazine-1-carboxylate | 12.4 g, yield 68% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1 | C19H24ClN5O3
